* PSpice Model Editor - Version 17.2.0
*$
*May 23, 2002
.SUBCKT Si2311DS 4 1 2
M1  3 1 2 2 PMOS W=398702u L=0.50u  
M2  2 1 2 4 NMOS W=398702u L=0.55u 
R1  4 3     RTEMP 8E-3
CGS 1 2     400E-12
DBD 4 2     DBD
*******************************************************************
.MODEL  PMOS       PMOS (  LEVEL  = 3               TOX    = 1.7E-8
+ RS     = 15E-3           RD     = 0               NSUB   = 1E16   
+ KP     = 2.35E-5         UO     = 400             
+ VMAX   = 0               XJ     = 5E-7            KAPPA  = 20E-3
+ ETA    = 1E-4            TPG    = -1  
+ IS     = 0               LD     = 0                
+ CGSO   = 0               CGDO   = 0               CGBO   = 0 
+ NFS    = 0.8E12          DELTA  = 0.1)
*******************************************************************
.MODEL  NMOS       NMOS (  LEVEL  = 3               TOX    = 1.7E-8
+NSUB    = 2E17            NFS    = 10E11           TPG    = -1)   
*******************************************************************
.MODEL DBD D (CJO=330E-12 VJ=0.38  M=0.37
+RS=0.1 FC=0.5 IS=1E-12 TT=4.5E-8 N=1 BV=8.2)
*******************************************************************
.MODEL RTEMP RES (TC1=6.5E-3 TC2=5.5E-6)
*******************************************************************
.ENDS
*$
.model BC557A   PNP(Is=1.02f Xti=3 Eg=1.11 Vaf=73.79 Bf=174.7 Ise=10.73f
+               Ne=1.644 Ikf=.1023 Nk=.5033 Xtb=1.5 Br=4.432 Isc=14.74f
+               Nc=1.296 Ikr=2.237 Rc=1.039 Cjc=9.81p Mjc=.332 Vjc=.4865 Fc=.5
+               Cje=30p Mje=.3333 Vje=.5 Tr=10n Tf=830.3p Itf=.8981 Xtf=10.32
+               Vtf=10)
*		PHILIPS		pid=bc556a	case=TO92
*		91-08-09 dsq
*$
.SUBCKT BSP613P_L1 drain gate source 
.PARAM  Rs=12m    Rg=5   Rd=2m     Ls=3n      Ld=3n       Lg=3n
.PARAM  act=5.04
X1  d1 g s Tj P_60nvar PARAMS: a={act} 
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*0.004))}
Ls    source s1   {Ls}
Rda1  d1     d2   {Rd}
Ld    drain  d2   {Ld}
E1    Tj     w      VALUE={TEMP}
R1    w      0      1u
.ENDS
*$
*Feb. 28, 2005
*Doc. ID: 76814, S-50232, Rev. B
.SUBCKT Si2302ADS 4 1 2
M1  3 1 2 2 NMOS W=259996u L=0.25u 
M2  2 1 2 4 PMOS W=259996u L=0.80u
R1  4 3     RTEMP 9E-3
CGS 1 2     200E-12
DBD 2 4     DBD
************************************************************** 
.MODEL  NMOS       NMOS  (LEVEL  = 3           TOX    = 3E-8
+ RS     = 22E-3          RD     = 0           NSUB   = 1.95E17  
+ KP     = 2.3E-5         UO     = 650             
+ VMAX   = 0              XJ     = 5E-7        KAPPA  = 5E-2
+ ETA    = 1E-4           TPG    = 1  
+ IS     = 0              LD     = 0               
+ CGSO   = 0              CGDO   = 0           CGBO   = 0 
+ NFS    = 0.8E12         DELTA  = 0.1)
*************************************************************** 
.MODEL  PMOS       PMOS  (LEVEL  = 3           TOX    = 3E-8
+NSUB    = 1.6E17         TPG    = -1)   
*************************************************************** 
.MODEL DBD D (CJO=90E-12 VJ=0.38 M=0.20
+RS=0.1 FC=0.5 IS=1E-12 TT=5E-8 N=1 BV=20.3)
*************************************************************** 
.MODEL RTEMP RES (TC1=10E-3 TC2=5.5E-6)
*************************************************************** 
.ENDS
*$
*Feb. 28, 2005
*Doc. ID: 75214, S-50232, Rev. B
.SUBCKT Si2302DS 4 1 2
M1  3 1 2 2 NMOS W=220682u L=0.50u 
M2  2 1 2 4 PMOS W=220682u L=1.25u  
R1  4 3     RTEMP 50E-3
CGS 1 2     150E-12
DBD 2 4     DBD
**************************************************************
.MODEL  NMOS       NMOS  (LEVEL  = 3          TOX    = 1.7E-8
+ RS     = 14E-3          RD     = 0          NSUB   = 3.4E17  
+ KP     = 1E-4           UO     = 650             
+ VMAX   = 0              XJ     = 5E-7       KAPPA  = 50E-3
+ ETA    = 1E-4           TPG    = 1  
+ IS     = 0              LD     = 0                           
+ CGSO   = 0              CGDO   = 0          CGBO   = 0 
+ NFS    = 0.8E12         DELTA  = 0.1)
**************************************************************
.MODEL  PMOS       PMOS (LEVEL   = 3          TOX    = 1.7E-8
+NSUB    = 2.5E16         TPG    = -1)   
**************************************************************
.MODEL DBD D (CJO=210E-12     VJ=0.38    M=0.32
+RS=0.1  FC=0.5  IS=1E-12  TT=4E-8  N=1  BV=21)
**************************************************************
.MODEL RTEMP RES (TC1=6E-3   TC2=5.5E-6)
**************************************************************
.ENDS
*$
*Feb. 28, 2005
*Doc. ID: 75222, S-50232, Rev. B
.SUBCKT Si2305DS 4 1 2
M1  3 1 2 2 PMOS W=382620u L=0.50u 
M2  2 1 2 4 NMOS W=382620u L=0.90u  
R1  4 3     RTEMP 190E-4
CGS 1 2     640E-12
DBD 4 2     DBD
**************************************************************************
.MODEL  PMOS       PMOS (  LEVEL  = 3               TOX    = 1.7E-8
+ RS     = 100E-4          RD     = 0               NSUB   = 0.38E16   
+ kp     = 2.5E-5          UO     = 400             
+ VMAX   = 0               XJ     = 0.5E-6          KAPPA  = 3E-3
+ ETA    = 1E-4            TPG    = -1  
+ IS     = 0               LD     = 0                            
+ CGSO   = 0               CGDO   = 0               CGBO   = 0 
+ NFS    = 0.8E12          DELTA  = 0.1)
*************************************************************************
.MODEL  NMOS       NMOS (  LEVEL  = 3               TOX    = 1.7E-8
+NSUB    = 18E16           NFS    =  10E11          TPG    = -1)   
*************************************************************************
.MODEL DBD D (CJO=380E-12 VJ=0.38    M=0.34
+RS=0.1 FC=0.5 IS=1E-12 TT=10E-8 N=1 BV=30)
*************************************************************************
.MODEL RTEMP RES (TC1=3.5E-3   TC2=5.5E-6)
*************************************************************************
.ENDS
*$
