* source BBCIRCUIT_SIMULATION
R_R2         N00569 0  1000k TC=0,0 
X_U1         N00520 0 N02223 N00569 N00105 N00105 N00302 AD8210 
R_R1         N00302 N00520  0.01 TC=0,0 
V_V1         N00105 0 5Vdc
R_RLOAD         N00520 N00333  {LOAD} TC=0,0 
R_R4         N00302 N00520  0.01 TC=0,0 
V_V3         N02223 0 0
I_I1         N00302 N00333 DC 0Adc AC 0Aac
+SIN 0 5 1000 0 0 0
X_U2         N00105 0 N03243 AD780 
R_R5         N03243 0  1000k TC=0,0 
