* source BBCIRCUIT_SIMULATION
D_D4         N331830 VTEST_H D1N4148_1 
R_R2         N331702 VDR  {RC} TC=0,0 
R_R4         N331826 N331702  {RB} TC=0,0 
R_R1         N331698 VDR  {RC} TC=0,0 
R_R3         N331702 N331814  {RB} TC=0,0 
D_D2         N331834 N331922 D1N4148_1 
V_V1         VDR 0 48Vdc
V_V2         VTEST_H 0 24Vdc
V_V3         VTEST_L 0 26Vdc
R_R5         N333899 N331922  2 TC=0,0 
Q_Q6         N331702 N331826 N331834 Q2N2222A/ZTX 
Q_Q7         N331698 N331814 N331830 Q2N2222A/ZTX 
V_V4         N333899 0  
+PULSE 0 30 0 0.001us 0.001us 50us 100us
X_M1         N331922 N331698 VTEST_H IRF1404
D_D1         N338407 VTEST_H D1N4148_1 
D_D3         N338407 N331698 D1N4744A 
.PARAM  rc=100 rb=1k
