* source BBCIRCUIT_SIMULATION
V_V1         N321229 0  
+PULSE 0 10 0 0.001us 0.001us 50us 100us
M_M1         N329450 N321277 N329249 N329249 IRF150
V_V10         N321508 0 24
R_R62         N321277 N321201  5 TC=0,0 
Q_Q3         N322983 N322646 0 Q2N2222A/ZTX 
V_V11         N322646 0  
+PULSE 0 3.3 0 0.01us 0.01us 0.5us 1us
V_V12         N322641 0 17
R_R64         N322983 N322641  20 TC=0,0 
R_R67         N326097 N326093  200 TC=0,0 
M_M2         N326097 N326067 0 0 IRF150
V_V14         N326093 0 24
V_V13         N326067 0  
+PULSE 0 5 0 0.001us 0.001us 50us 100us
Q_Q5         N321205 N321229 N321201 BC547BP/ZTX 
R_R68         N321229 N321205  50 TC=0,0 
V_V15         N321205 0 30
R_R69         0 N329249  20 TC=0,0 
R_R70         N329450 N321508  20 TC=0,0 
