* source BBCIRCUIT_SIMULATION
Q_Q5         N321488 N322144 0 BC547A 
R_R8         0 N322939  50 TC=0,0 
R_R4         N322130 N322012  10 TC=0,0 
R_R7         N322943 N322963  50 TC=0,0 
V_V2         V_H 0 35Vdc
V_V1         V_L 0 3.3Vdc
Q_Q4         N322012 N321678 0 BC547A 
Q_Q3         N322012 N321581 V_H BC557A 
M_M1         N322943 N322130 N322939 N322939 IRF150
Q_Q1         N321678 N321488 N321618 BC557A 
R_R6         0 N322144  500 TC=0,0 
V_V3         N322963 0 24Vdc
R_R5         N322144 N322130  1 TC=0,0 
R_R2         0 N321488  500 TC=0,0 
R_R1         N321488 V_L  1 TC=0,0 
R_R3         N321618 N321656  10 TC=0,0 
Q_Q2         N321581 N321488 N321618 BC547A 
V_V11         N321656 0  
+PULSE 0 3.3 0 0.01us 0.01us 5us 10us
