* source BBCIRCUIT_SIMULATION
M_M1         N323931 N324131 N324183 N324183 IRF150
V_V3         N323795 0 24Vdc
V_V11         N324097 0  
+PULSE 0 3.3 0 0.01us 0.01us 5us 10us
V_V1         V_L 0 3.3Vdc
R_R4         N324131 N323851  4.7 TC=0,0 
V_V2         V_H 0 48Vdc
R_R8         0 N324183  50 TC=0,0 
R_R7         N323931 N323795  50 TC=0,0 
R_R9         N325824 N324097  47 TC=0,0 
Q_Q3         0 N325521 N323851 BC557A 
Q_Q4         V_H N325521 N323851 BC547A 
Q_Q5         N325521 N325824 0 BC547A 
R_R11         V_H N325521  470 TC=0,0 
.PARAM  r11=4.7k
