* source BBCIRCUIT_SIMULATION
V_V2         V_H 0 24Vdc
Q_Q5         N330967 N331257 0 BC547A 
Q_Q3         0 N330967 N331015 BC557A 
M_M1         N331021 N331169 N331191 N331191 IRF150
R_R4         N331169 N331015  4.7 TC=0,0 
C_C1         0 N330881  10n  TC=0,0 
V_V11         N331245 0  
+PULSE 0 3.3 0 0.01us 0.01us 5us 10us
Q_Q4         N330881 N330967 N331015 BC547A 
R_R8         0 N331191  50 TC=0,0 
D_D2         V_H N330881 D1N5819 
R_R9         N331257 N331245  47 TC=0,0 
R_R11         N330881 N330967  470 TC=0,0 
V_V1         V_L 0 3.3Vdc
V_V3         N330895 0 24Vdc
R_R7         N331021 N330895  50 TC=0,0 
.PARAM  r11=4.7k
