* source BBCIRCUIT_SIMULATION
R_RL2         0 N345063  50 TC=0,0 
R_RL1         N330321 N330169  50 TC=0,0 
V_V11         N330579 0  
+PULSE 0 3.3 0 0.01us 0.01us 5us 10us
R_R9         N333684 N330579  0.47 TC=0,0 
V_V1         V_L 0 3.3Vdc
V_V2         V_H 0 48Vdc
V_V3         N330169 0 24Vdc
R_R10         V_H N333688  470 TC=0,0 
Q_Q5         N333688 N333684 0 BC547A 
Q_Q3         N330273 N333688 0 BC557A 
Q_Q6         V_H N333688 N330273 BC547A 
R_R11         N346343 N343452  0.47 TC=0,0 
R_R12         N346343 N346375  0.47 TC=0,0 
R_R13         N348722 N346343  0.47 TC=0,0 
X_M5         N346375 N330273 0 IRF3205
X_M6         N343452 N330273 V_H IRF4905
X_M7         N330321 N348722 N345063 IRF1404
.PARAM  r11=4.7k
