* source BBCIRCUIT_SIMULATION
Q_Q2         N03163 N03140 N03192 Q2N2222
V_V4         N03116 0 12Vdc
V_V5         N03082 0 DC 0 AC 1V sin(0 10mv 10khz)
C_C8         N03163 OUT  10u  TC=0,0 
C_C9         N03075 N03140  10u  TC=0,0 
C_C10         0 N03192  50u  TC=0,0 
R_R1         0 OUT  5.1k TC=0,0 
R_R2         0 N03192  100 TC=0,0 
R_R3         0 N03140  24k TC=0,0 
R_R4         N03082 N03075  100 TC=0,0 
R_R5         N03163 N03116  5.1k TC=0,0 
R_R6         N03140 N03116  300k TC=0,0 
