* source BBCIRCUIT_SIMULATION
R_R1         N01613 N01132  {Rs}  
L_L1         N01613 N00976  1mH  
C_C1         0 N00976  0.5u   
V_V1         N01132 0 DC 0Vdc AC 1Vac 
.PARAM  rs=0
