* source BBCIRCUIT_SIMULATION
V_V1         N00144 0  
+PULSE 0 5 0 0.4us 0.5us 10ms 20ms
C_C1         N00144 N00173  10u   
R_R1         0 N00173  200  
