* source BBCIRCUIT_SIMULATION
Q_Q8         N02717 N02995 0 Q2N1893
Q_Q1         N02727 N02683 0 Q2SA1213/ZTX 
R_R2         N02717 N02533  100k TC=0,0 
R_R7         0 N02995  9.1k TC=0,0 
V_V1         N02533 0 {BAT}
R_R4         0 N03001  20k TC=0,0 
Q_Q6         N02819 N02819 N03001 Q2N1893
Q_Q4         N02727 N02717 N03011 Q2N1893
Q_Q2         N02669 N02669 N02533 Q2SA1213/ZTX 
R_R5         0 N03005  18k TC=0,0 
R_R6         0 N03011  9.1k TC=0,0 
Q_Q3         N02819 N02727 N02683 Q2SA1213/ZTX 
R_R8         0 N03001  1900k TC=0,0 
Q_Q7         N02669 N02717 N02995 Q2N1893
R_R3         N02669 N02683  9.1k TC=0,0 
Q_Q5         N02727 N02819 N03005 Q2N1893
R_load         0 N02533  {LOAD} TC=0,0 
.PARAM  load=2 bat=24
