* source BB_BOOST
R_R1         0 OUT  50 TC=0,0 
L_L1         N01303 N01425  0.5mH  
C_C1         0 OUT  470uF  TC=0,0 
M_M1         N01425 N01696 0 0 IRF150
D_D1         N01425 OUT D1N5818 
V_V2         N01696 0  
+PULSE 0 5 0 0.01us 0.01us {DUTY} 10us
V_V1         N01303 0 20Vdc
.PARAM  duty=1us
