* source BB_BUCK
M_M1         N00136 N13377 N00143 N00143 IRF150
V_V1         N00136 0 70Vdc
V_V2         N13377 N00143  
+PULSE 0 5 0 0.01us 0.01us {DUTY} 10us
C_C1         0 OUT  4700uF  TC=0,0 
R_R1         0 N00181  50 TC=0,0 
D_D1         0 N00143 D1N5818 
R_R2         OUT N00181  0.1 TC=0,0 
R_R3         N02079 OUT  420K TC=0,0 
R_R4         N02079 0  60k TC=0,0 
R_R5         N00181 N02066  420K TC=0,0 
R_R6         N02066 0  60k TC=0,0 
V_V3         0 VEE 0Vdc
V_V4         VCC 0 6Vdc
M_M2         N00136 N13287 N00143 N00143 IRF150
M_M3         N00136 N14575 N00143 N00143 IRF150
V_V5         N13287 N00143  
+PULSE 0 5 0 0.01us 0.01us {DUTY} 10us
V_V6         N14575 N00143  
+PULSE 0 5 0 0.01us 0.01us {DUTY} 10us
L_L2         N00143 OUT  5mH  
X_U3A         N02079 AD_I+ VCC VEE AD_I+ LM358/ON
X_U3B         N02066 AD_I- VCC VEE AD_I- LM358/ON
.PARAM  duty=1us
