* source BBAMP_1
R_R2         N00857 N00783  5M  
R_R1         N00783 OUT  {Rf}  
X_U1         N00889 N00783 N00700 N00720 OUT AD8072jn/AD
V_V1         N00700 0 0Vdc
V_V2         0 N00720 15Vdc
V_V3         N00857 0 100Vdc
R_R3         0 N00889  5M  
R_R4         0 N00889  {Rf}  
.PARAM  rf=100k rp=98k
