* source BBAMP_1
X_U1         N01121 OUT N01011 N01031 OUT AD8072jn/AD
V_V2         0 N01031 -15Vdc
V_V1         N01011 0 15Vdc
V_V3         N01121 0 0Vdc
