* source LOW_PASS_FILTER
D_D1         OUT N62235 D1N4744A 
D_D2         N622290 N62235 D1N4744A 
V_V1         N62243 0 DC 0Vdc AC 70Vac 
R_R2         0 OUT  5k TC=0,0 
R_R1         OUT N62243  45k TC=0,0 
R_R3         0 OUT_2  50k TC=0,0 
R_R4         OUT_2 N64703  450k TC=0,0 
V_V2         N64703 0 DC 0Vdc AC 70Vac 
C_C1         0 OUT_2  150p  TC=0,0 
R_R5         0 N622290  5k TC=0,0 
