* source LOW_PASS_FILTER
V_V1         N14183 0 DC 0Vdc AC 10Vac 
C_C30         N14038 N143881  0.1u  TC=0,0 
R_R2         N14183 N14038  100k TC=0,0 
R_R3         0 N143881  100k TC=0,0 
